US07781443B2
To a suspension (1 ml) of copper bromide (227 mg) in tetrahydrofuran is added dropwise 65% solution (982 mg) of bis(2-methoxyethoxy)aluminum sodium hydride in toluene under ice-cooling, and the mixture is stirred at the same temperature for 30 minutes. The reaction solution is cooled to −78°C., and thereto is added 2-butanol (0.29 ml). Subsequently, a solution (0.5 ml) of (2R*,4S*)-4-{[3,5-bis(trifluoromethyl)benzyl]-[5-(2-cyanovinyl)pyrimidin-2-yl]}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (100 mg) in tetrahydrofuran is added thereto dropwise, and the mixture is stirred at the same temperature for 2 hours. After allowing to warm to room temperature, the mixture is stirred for additional 2 hours. To the reaction solution is added a saturated aqueous ammonium chloride solution, and the mixture is partitioned by adding ethyl acetate. The organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by tin layer silica gel chromatography (hexane: ethyl acetate=2:1) to give (2R*,4S*)-4-{[3,5-bis(trifluoromethyl)benzyl]-[5-(2-cyanoethyl)pyrimidin-2-yl]}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (74 mg). MS (m/z): 637 [M+H]+

reactant | bis(2-methoxyethoxy)aluminum sodium hydride | [H-].[Na+].COCCO[Al+]OCCOC.[H-]
reactant | 2-butanol | 0.29 ml | CC(CC)O | C4H10O
reactant | (2R*,4S*)-4-{[3,5-bis(trifluoromethyl)benzyl]-[5-(2-cyanovinyl)pyrimidin-2-yl]}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 0.5 ml, 100 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC=C(C(=N1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C=CC#N)CC | C30H28F6N6O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | copper bromide | 1 ml, 227 mg | [Cu](Br)Br
product | (2R*,4S*)-4-{[3,5-bis(trifluoromethyl)benzyl]-[5-(2-cyanoethyl)pyrimidin-2-yl]}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 74 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC=C(C(=N1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)CCC#N)CC | C30H30F6N6O3
